US09085578B2
A) 1-(2-chlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one
To a mixture of 4-hydroxy-6-methyl-2H-pyran-2-one (10.0 g) and 1,2-dichlorobenzene (9.91 mL) was added 2-chloroaniline (10.1 g) over 10 min at 165° C., and the reaction mixture was stirred at 165° C. for 30 min, and cooled to room temperature. The resulting solid was collected by filtration, and washed with dichloromethane to give the title compound (5.19 g).

reactant | 4-hydroxy-6-methyl-2H-pyran-2-one | 10.0 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | 2-chloroaniline | 10.1 g | ClC1=C(N)C=CC=C1 | C6H6ClN
solvent | 1,2-dichlorobenzene | 9.91 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1-(2-chlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 5.19 g | ClC1=C(C=CC=C1)N1C(C=C(C=C1C)O)=O | C12H10ClNO2
